US08975264B2
Step 4: Preparation of (S)-(1-(7-(3,4-difluorophenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-2-yl)methanol (Chemical Formula 20)
5-Chloro-7-(3,4-difluorophenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidine (401 mg), DIPEA (0.35 mL) and (S)-2-pyrrolidinemethanol (401 mg) are stirred for 2.5 hours in an acetonitrile (60 mL) solvent at 90° C. The reaction solvent is removed by distillation under reduced pressure. The remainder is purified by column chromatography to yield the target compound (395 mg). 1H NMR (CDCl3, 300 MHz) δ 7.82 (m, 1H), 7.67 (m, 1H), 7.29 (q, J=8.7 Hz, 1H), 6.11 (s, 1H), 4.45 (br, 1H), 3.85 (m, 1H), 3.77 (m, 1H), 3.57 (m, 2H), 2.38 (s, 3H), 2.08-2.01 (m, 3H), 1.70 (m, 1H).

reactant | 5-Chloro-7-(3,4-difluorophenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidine | 401 mg | ClC1=NC=2N(C(=C1)C1=CC(=C(C=C1)F)F)N=C(C2I)C | C13H7ClF2IN3
reactant | DIPEA | 0.35 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-pyrrolidinemethanol | 401 mg | N1[C@@H](CCC1)CO | C5H11NO
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | (S)-(1-(7-(3,4-difluorophenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-2-yl)methanol | 395 mg | FC=1C=C(C=CC1F)C1=CC(=NC=2N1N=C(C2I)C)N2[C@@H](CCC2)CO | C18H17F2IN4O
